US06159901
Production of 4-methyl-6-[3-(trifluoromethyl)-phenoxy] picolinic acid (compound No. VI-13)
2-cyano-4-methyl-6-[3-(trifluoromethyl)phenoxy] pyridine (2.055 g, 0.0074 mol) was heated and stirred in 10 ml of concentrated hydrochloric acid and 6 ml of acetic acid at 110° C. for 5 hours. Thereafter, the obtained reaction solution was concentrated under reduced pressure. The obtained residues were mixed with water. The precipitated solids were filtered out, washed with water and then dried, thereby obtaining an aimed product.

reactant | 2-cyano-4-methyl-6-[3-(trifluoromethyl)phenoxy] pyridine | 0.0074 mol, 2.055 g | C(#N)C1=NC(=CC(=C1)C)OC1=CC(=CC=C1)C(F)(F)F | C14H9F3N2O
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 4-methyl-6-[3-(trifluoromethyl)-phenoxy] picolinic acid | CC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)O | C14H10F3NO3
